US05104892
Step 3) Preparation of N-[4-(3-Chloro-1-propyloxy)phenyl]methanesulfonamide
To a cooled (0° C.), stirred solution of 1-chloro-3-(4-aminophenoxy)propane (680 mg, 3.66 mmol) and pyridine (319 mg, 4.03 mmol) in CH2Cl2 (10 mL) was added methanesulfonyl chloride (461 mg, 4.03 mmol). After 18 hours, the mixture was washed with 1N HCl and brine, dried (MgSO4), and concentrated to give 865 mg (90%) of product as an off-white solid m.p. 120°-122° C.

reactant | 1-chloro-3-(4-aminophenoxy)propane | 3.66 mmol, 680 mg | ClCCCOC1=CC=C(C=C1)N | C9H12ClNO
reactant | pyridine | 4.03 mmol, 319 mg | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 4.03 mmol, 461 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-Chloro-1-propyloxy)phenyl]methanesulfonamide | 865 mg, 90% | ClCCCOC1=CC=C(C=C1)NS(=O)(=O)C | C10H14ClNO3S
